US07642264B2
5′-Bromo-6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-[2,3′]bipyridinyl
The title compound was prepared from trifluoro-methanesulfonic acid 6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester (example A.34) (2.0 g, 4.86 mmol) and commercially available 3-bromo-pyridine-boronic acid [CAS-No. 452972-09-07] (alternatively prepared from commercially available 3,5-dibromopyridine according to Tetrahedron 2002, 58(17), 3323 or Synthesis 2003, (7), 1035) (1.079 g, 5.34 mmol) according to the general procedure IVb. Obtained as a white solid (1.55 g, 76%). MS (ISP) 419.1 [(M+H)+] and 421.0 [(M+2+H)+].

reactant | trifluoro-methanesulfonic acid 6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester | 4.86 mmol, 2.0 g | C1(CC1)C1=CC(=CC(=N1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C16H11F6NO3S
reactant | 3-bromo-pyridine-boronic acid | BrC=1C(=NC=CC1)B(O)O | C5H5BBrNO2
reactant | 3,5-dibromopyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
product | 5′-Bromo-6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-[2,3′]bipyridinyl | BrC=1C=C(C=NC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C20H14BrF3N2
